US04065290
3-(2-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4-piperidinone
Ten g. of 3-(2-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone was prepared from 35 g. of 1-(2-chlorophenyl)-3-(3-trifluoromethylphenyl)-2-propanone by reaction with ethyl formate and methylamine hydrochloride as described in Examples 1-3. The pyridinone was reduced with 2 g. of lithium aluminum hydride and excess hydride was decomposed and the product worked up and chromatographed as described in Examples 1-3. The recovered yields were about 1.3 g. of a mixture of the compounds of Examples 21 and 22, which were identified by mass spectroscopy with an indicated molecular weight of 365. About 2.1 g. of the compound of Example 23 was recovered, m.p. 90°-92°. The elemental analysis of Example 23 was as follows.

reactant | 3-(2-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4(1H)-pyridinone | ClC1=C(C=CC=C1)C1=CN(C=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C19H13ClF3NO
reactant | 1-(2-chlorophenyl)-3-(3-trifluoromethylphenyl)-2-propanone | ClC1=C(C=CC=C1)CC(CC1=CC(=CC=C1)C(F)(F)F)=O | C16H12ClF3O
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | methylamine hydrochloride | Cl.CN
reactant | pyridinone | N1C(C=CC=C1)=O | C5H5NO
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydride | [H-]
product | 3-(2-chlorophenyl)-1-methyl-5-(3-trifluoromethylphenyl)-4-piperidinone | ClC1=C(C=CC=C1)C1CN(CC(C1=O)C1=CC(=CC=C1)C(F)(F)F)C | C19H17ClF3NO
